US09340547B2
a) (S)-Benzyl 1-(3-bromo-2-(5-fluoropyridin-3-ylcarbamoyl)-1H-pyrrol-1-ylamino)-1-oxopropan-2-ylcarbamate
The title compound was prepared from (S)-methyl 1-(2-(benzyloxycarbonylamino)propanamido)-3-bromo-1H-pyrrole-2-carboxylate (2.00 g, 4.7 mmol) and 5-fluoropyridin-3-amine (4.23 g, 37.6 mmol) following the experimental procedure described in Preparation 44a. 1.65 g (69% yield) of the desired compound were obtained.

reactant | (S)-methyl 1-(2-(benzyloxycarbonylamino)propanamido)-3-bromo-1H-pyrrole-2-carboxylate | 4.7 mmol, 2.00 g | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)NN1C(=C(C=C1)Br)C(=O)OC)C | C17H18BrN3O5
reactant | 5-fluoropyridin-3-amine | 37.6 mmol, 4.23 g | FC=1C=C(C=NC1)N | C5H5FN2
product | (S)-Benzyl 1-(3-bromo-2-(5-fluoropyridin-3-ylcarbamoyl)-1H-pyrrol-1-ylamino)-1-oxopropan-2-ylcarbamate | 1.65 g, 69% yield | BrC1=C(N(C=C1)NC([C@H](C)NC(OCC1=CC=CC=C1)=O)=O)C(NC=1C=NC=C(C1)F)=O | C21H19BrFN5O4
